US04328244
To a 1-liter (1) 3-necked round-bottomed flask equipped with an overhead stirrer, reflux condenser and dropping funnel and containing a stirred mixture of 52.0 g (0.30 mole) of sulfanilic acid in 225 ml of warm (~65° C.) water was added 83.0 g (0.61 mole) of sodium acetate trihydrate and 75 ml of acetonitrile. The temperature of the resulting yellow solution was stabilized at about 70° C. and a solution of 33.8 g (0.20 mole) of 4-(1-methylethyl)benzyl chloride in 75 ml of acetonitrile was added over 70 minutes. The solution was then refluxed for an additional 31/2 hrs, and 95 ml of acetonitrile was removed by distillation over a 30 minute period, during which time 50 ml of concentrated hydrochloric acid (con. HCl) was added dropwise. The resulting mixture was filtered hot (~80° C.) and the collected solids were slurried in 300 ml of boiling methanol for 15 min. and then vacuum filtered. The slurrying and vacuum filtration process was repeated first with 300 ml of warm (65° C.) water and then again with 300 ml of boiling methanol. Air-drying of the collected solids gave 12.51 g (20.5% yield) of purified 4-(((4-(1-methylethyl)phenyl)methyl)amino)benzenesulfonic acid as a white powder, having a melting point greater than 275° C.

reactant | sulfanilic acid | 0.30 mole, 52.0 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | water | O | H2O
reactant | sodium acetate trihydrate | 0.61 mole, 83.0 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 4-(1-methylethyl)benzyl chloride | 0.20 mole, 33.8 g | CC(C)C1=CC=C(CCl)C=C1 | C10H13Cl
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | acetonitrile | 95 ml | C(C)#N | C2H3N
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 4-(((4-(1-methylethyl)phenyl)methyl)amino)benzenesulfonic acid | 12.51 g, 20.5% yield | CC(C)C1=CC=C(C=C1)CNC1=CC=C(C=C1)S(=O)(=O)O | C16H19NO3S
